US06927221B2
Mesityl-2-methyl-4-nitro-1H-imidazole
A solution of 5-bromo-2-methyl-4-nitroimidazole (5.0 g, 24 mmol), mesitylboric acid (3.96 g, 24 mmol), Pd(PPh3)4 (1.4 g, 1.2 mmol) and barium hydroxide octahydrate (19.1 g, 61 mmol) in 2,2-dimethoxyethane (150 mL) and water (25 mL) was heated at reflux for four hours. After filtered through Celite, the filtrate was diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crystals were washed with ethyl acetate, to give the title compound (4.17 g) as white crystals.

reactant | 5-bromo-2-methyl-4-nitroimidazole | 24 mmol, 5.0 g | BrC1=C(N=C(N1)C)[N+](=O)[O-] | C4H4BrN3O2
reactant | mesitylboric acid | 24 mmol, 3.96 g | C1(=C(C(=CC(=C1)C)C)OB(O)O)C | C9H13BO3
reactant | barium hydroxide octahydrate | 61 mmol, 19.1 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | 2,2-dimethoxyethane | 150 mL | COC(C)OC | C4H10O2
solvent | water | 25 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.2 mmol, 1.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Mesityl-2-methyl-4-nitro-1H-imidazole | 4.17 g | C1(=C(C(=CC(=C1)C)C)N1C(=NC(=C1)[N+](=O)[O-])C)C | C13H15N3O2
